US06350756B1
The mixture of 2,6-dichloro-4-fluorophenol (362 mg, 2.0 mmol), potassium carbonate (910 mg, 6.6 mmol), ethyl bromoacetate (500 mg, 3.0 mmol) and acetone (25 ml) was refluxed for 12 h. After cooling, the mixture was filtered to remove potassium carbonate. The filtrate was concentrated under reduced pressure. To this residue, 10 ml dioxane and 14 ml 5% sodium hydroxide solution were added. After the mixture was stirred at room temperature overnight, it was acidified with concentrated hydrochloric acid to pH 2, and then extracted three times with ethyl acetate (15 ml each). Organic phases were combined, washed with water and brine, dried over magnesium sulfate, filtered, and then evaporated in vacuo. The residue was recrystallized from ethyl acetate and petroleum ether to give 348 mg 2,6-dichloro-4-fluorophenoxyacetic acid as white crystals, mp 155-158° C., yield: 72.8%.

reactant | 2,6-dichloro-4-fluorophenol | 2.0 mmol, 362 mg | ClC1=C(C(=CC(=C1)F)Cl)O | C6H3Cl2FO
reactant | potassium carbonate | 6.6 mmol, 910 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 3.0 mmol, 500 mg | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 2,6-dichloro-4-fluorophenoxyacetic acid | 348 mg, yield: 72.8% | ClC1=C(OCC(=O)O)C(=CC(=C1)F)Cl | C8H5Cl2FO3
